US06258812B1
1-(3-Hydroxyanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.384 g (1.5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.491 g (4.5 mmol) 3-aminophenol is heated under nitrogen atmosphere for 1 h at 90° C. and for 3 h at 120° C. The reaction mixture is then taken up in a mixture of 30 ml acetate and 20 ml 20% aqueous potassium carbonate solution while stirring for about 4 h, and the filtration material is digested for 20 min in 20 ml of boiling methanol. After cooling to RT, filtration, washing of the filter residue with methanol, and drying under HV (8 h, 130° C.), title compound is obtained with a water content of 1.94%; m.p. 217-219° C.; ESI-MS: (M+H)+=329.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.5 mmol, 0.384 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 3-aminophenol | 4.5 mmol, 0.491 g | NC=1C=C(C=CC1)O | C6H7NO
solvent | acetate | 30 ml | C(C)(=O)[O-]
solvent | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-(3-Hydroxyanilino)-4-(4-pyridylmethyl)phthalazine | OC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1 | C20H16N4O
